US06310203B1
a) 6-Chloro-3-(pyrazin-2-yl)-1,2,4-triazolo[3,4-a]phthalazine
The title-compound was prepared from 1-chloro-4-hydrazinophthalazine and pyrazine-2-carboxylic acid as described for Intermediate 1 part c, 1H NMR (250 MHz, CDCl3) δ 7.99 (1H, t, J=7.2 Hz, Ar—H), 8.09 (1H, t, J=8.2 Hz, Ar—H), 8.33 (1H, d, J=6.8 Hz; Ar—H), 8.80 (1H, m, Ar—H), 8.82-8.88 (2H, m, 2 of Ar—H), 9.67 (1H, d, J=1.5 Hz, Ar—H).

reactant | 1-chloro-4-hydrazinophthalazine | ClC1=NN=C(C2=CC=CC=C12)NN | C8H7ClN4
reactant | pyrazine-2-carboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
product | 6-Chloro-3-(pyrazin-2-yl)-1,2,4-triazolo[3,4-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NC=CN=C2 | C13H7ClN6
